US07064123B1
Sodium (0.097 g, 4.2 mmol) was dissolved in ethanol (10 mL) and the resulting solution was cooled to 0° C. and treated with a mixture comprising benzyl mercaptan (0.493 mL, 4.2 mmol) and 2-cyclohexylmethyl-2-methylsulfonyloxymethyl-malonic acid diethyl ester (1.466 g, 4.02 mmol). The reaction was stirred at room temperature for 17 hours, 53° C. for 20 hours and 73° C. for 24 hours. The ethanol was removed by rotary evaporation, the reaction mixture was poured into water and the product was extracted with ethyl acetate. The extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by rotary evaporation at reduced pressure and the residue was chromatographed on silica gel eluting with ethyl acetate/hexane to give 2-benzylsulfanylmethyl-3-cyclohexyl-propionic acid ethyl ester (0.237 g).

reactant | Sodium | 4.2 mmol, 0.097 g | [Na] | Na
reactant | benzyl mercaptan | 4.2 mmol, 0.493 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-cyclohexylmethyl-2-methylsulfonyloxymethyl-malonic acid diethyl ester | 4.02 mmol, 1.466 g | C(C)OC(C(C(=O)OCC)(COS(=O)(=O)C)CC1CCCCC1)=O | C16H28O7S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-benzylsulfanylmethyl-3-cyclohexyl-propionic acid ethyl ester | 0.237 g | C(C)OC(C(CC1CCCCC1)CSCC1=CC=CC=C1)=O | C19H28O2S
